US04396627
1-(4-Acetoxymethylphenyl)propan-2-one
Acetyl chloride (5.0 ml) in dry ether (20 ml) was added dropwise to a stirred solution of 1-(4-hydroxymethylphenyl)propane-2-one ethylene ketal (3.0 g) (as prepared in description 1) in dry ether (50 ml). The mixture was refluxed for 1 h, evaporated and deketalised as described in description 1, to give the title compound as a colourless oil which was bulb distilled, bath temperature 120°-130°/o. 1 mm Hg.

reactant | Acetyl chloride | 5.0 ml | C(C)(=O)Cl | C2H3ClO
reactant | 1-(4-hydroxymethylphenyl)propane-2-one ethylene ketal | 3.0 g | C1COC(CC2=CC=C(C=C2)CO)(C)O1 | C12H16O3
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 1-(4-Acetoxymethylphenyl)propan-2-one | C(C)(=O)OCC1=CC=C(C=C1)CC(C)=O | C12H14O3
